.SUBCKT sram_sp_cell_exposed BL BR VDD VSS WL VNB VPB Q QB

  X0 QB WL BR VNB sky130_fd_pr__special_nfet_pass l=0.150 w=0.140

  X1 Q QB VSS VNB sky130_fd_pr__special_nfet_latch l=0.150 w=0.210

  X2 BL WL Q VNB sky130_fd_pr__special_nfet_pass l=0.150 w=0.140

  X3 Q WL Q VPB sky130_fd_pr__special_pfet_pass_shortl l=0.025 w=0.140

  X4 QB WL QB VPB sky130_fd_pr__special_pfet_pass_shortl l=0.025 w=0.140

  X5 VDD Q QB VPB sky130_fd_pr__special_pfet_pass l=0.150 w=0.140

  X6 Q QB VDD VPB sky130_fd_pr__special_pfet_pass l=0.150 w=0.140

  X7 VSS Q QB VNB sky130_fd_pr__special_nfet_latch l=0.150 w=0.210


.ENDS sram_sp_cell_exposed
